US08455522B2
A flask was charged with 5-bromo-6-fluoro-3-methylbenzo[d]oxazol-2(3H)-one (246 mg, 1.0 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (381 mg, 1.5 mmol) and potassium acetate (294 mg, 3.0 mmol), and 1,4-dioxane (10 mL) was added. The mixture was flushed with N2 for 5 min. PdCl2(dppf).CH2Cl2 (37 mg, 0.050 mmol) was added. The mixture was stirred at 90° C. overnight. The mixture was cooled to room temperature and silica gel (5 g) was added. The suspension was concentrated and the residue was purified by silica chromatography eluting with a 0 to 40% EtOAc-heptane gradient to give 6-fluoro-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one, 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.38 (s, 12 H) 3.42 (s, 3H) 6.97 (d, J=8.08 Hz, 1H) 7.26 (d, J=8.08 Hz, 1H).

reactant | 5-bromo-6-fluoro-3-methylbenzo[d]oxazol-2(3H)-one | 1.0 mmol, 246 mg | BrC=1C(=CC2=C(N(C(O2)=O)C)C1)F | C8H5BrFNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.5 mmol, 381 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3.0 mmol, 294 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.050 mmol, 37 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 6-fluoro-3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazol-2(3H)-one | FC1=CC2=C(N(C(O2)=O)C)C=C1B1OC(C(O1)(C)C)(C)C | C14H17BFNO4
